US08685970B2
2-pyrazine carboxylic acid (0.065 g, 0.51 mmol) was combined with DIPEA (0.140 mL, 0.811 mmol) and HATU (0.200 g, 0.51 mmol) in 5 mL DMF. The mixture was stirred at room temperature for ten minutes, at which time 2-(3-fluoro-5-(trifluoromethyl)phenyl)quinolin-8-amine (0.12 g, 0.391 mmol) was added. The mixture was stirred at room temperature for 18 hours before 10 mL water was added. The resulting precipitate was collected by filtration, and the solids were triturated in methanol to yield N-(2-(3-fluoro-5-(trifluoromethyl)phenyl)quinolin-8-yl)pyrazine-2-carboxamide as a beige solid (0.065 g, 31% yield). MS (ESI) calcd for C21H12F4N4O (m/z): 412.09. found: 413 [M+1].

reactant | 2-pyrazine carboxylic acid | 0.51 mmol, 0.065 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | DIPEA | 0.811 mmol, 0.140 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.51 mmol, 0.200 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(3-fluoro-5-(trifluoromethyl)phenyl)quinolin-8-amine | 0.391 mmol, 0.12 g | FC=1C=C(C=C(C1)C(F)(F)F)C1=NC2=C(C=CC=C2C=C1)N | C16H10F4N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | N-(2-(3-fluoro-5-(trifluoromethyl)phenyl)quinolin-8-yl)pyrazine-2-carboxamide | 0.065 g, 31% yield | FC=1C=C(C=C(C1)C(F)(F)F)C1=NC2=C(C=CC=C2C=C1)NC(=O)C1=NC=CN=C1 | C21H12F4N4O
